US08372845B2
Step 1: 3-(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-benzenesulfonylamino)-propionic acid tert-butyl ester
The title compound was prepared from 3-(2-tert-butoxycarbonyl-ethylsulfamoyl)-benzoic acid (Int. AD) and 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride in an analogous method to Example 1; LC-MS Rt 0.93 mins; 636.3 [M+H]+, Method 2minLC_v003.

reactant | 3-(2-tert-butoxycarbonyl-ethylsulfamoyl)-benzoic acid | C(C)(C)(C)OC(=O)CCNS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C14H19NO6S
reactant | 3,5-diamino-6-chloro-pyrazine-2-carboxylic acid [1,3,8-triaza-spiro[4.5]dec-(2E)-ylidene]-amide hydrochloride | Cl.N1\C(\NCC12CCNCC2)=N\C(=O)C2=NC(=C(N=C2N)N)Cl
product | 3-(3-{2-[(E)-3,5-Diamino-6-chloro-pyrazine-2-carbonylimino]-1,3,8-triaza-spiro[4.5]decane-8-carbonyl}-benzenesulfonylamino)-propionic acid tert-butyl ester | C(C)(C)(C)OC(CCNS(=O)(=O)C1=CC(=CC=C1)C(=O)N1CCC2(CN\C(\N2)=N/C(=O)C2=NC(=C(N=C2N)N)Cl)CC1)=O | C26H34ClN9O6S
